US07141671B2
(d) Biphenyl-2-ylcarbamic Acid 1-(9-Oxononyl)piperidin-4-yl Ester
To a 500 mL round-bottomed flask with a magnetic stirrer was added biphenyl-2-ylcarbamic acid 1-(9,9-dimethoxynonyl)piperidin-4-yl ester (7.7 g, 15.9 mmol) and then acetonitrile (70 mL) and aqueous 1M hydrochloric acid (70 mL). The resulting mixture was stirred at room temperature for 1 h and then dichloromethane (200 mL) was added. This mixture was stirred for 15 min. and then the layers were separated. The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure to afford the title intermediate (6.8 g), which was used in the next step without further purification.

reactant | biphenyl-2-ylcarbamic acid 1-(9,9-dimethoxynonyl)piperidin-4-yl ester | 15.9 mmol, 7.7 g | COC(CCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)OC | C29H42N2O4
reactant | acetonitrile | 70 mL | C(C)#N | C2H3N
reactant | hydrochloric acid | 1M, 70 mL | Cl | ClH
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(9-Oxononyl)piperidin-4-yl Ester | 6.8 g | O=CCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C27H36N2O3
